US07968570B2
A mixture of 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.349 g, 0.83 mmol), Pd(PPh3)4 (0.317 g, 0.25 mmol), sodium cyanide (0.048 g, 0.946 mmol), CuI (0.016 g, 0.086 mmol), acetonitrile (4 mL) was stirred at 80° C. for 18 h. Workup and silica gel column chromatography using 2:1 hexanes-ethyl acetate (typically 2:1 hexane-EtOAc) afforded 7-chloro-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile (0.100 g, 33%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.32 (s, 2H), 4.79 (s, 2H), 7.20 (d, 2H), 7.35 (d, 2H), 7.58 (s, 1H), 7.70 (s, 1H). GC-MS: m/z 366 (M−1)+, 281 (M−85)+.

reactant | 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.83 mmol, 0.349 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10BrClF3NO2
reactant | sodium cyanide | 0.946 mmol, 0.048 g | [C-]#N.[Na+]
reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)4 | 0.25 mmol, 0.317 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.086 mmol, 0.016 g | [Cu]I
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 7-chloro-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.100 g, 33% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#N | C17H10ClF3N2O2
